US06110933
Isobutyl bromide (27.4 g) was added to magnesium (5.0 g) in tetrahydrofuran (100 ml). The mixture was stirred for 1 hour under nitrogen atmosphere. The mixture was added to a solution of 1,10-dibromodecane (50.0 g) and dilithium tetrachlorocuprate (1 m mole) in tetrahydrofuran (100 ml) at 0° C. under nitrogen atmosphere. The mixture was stirred at 0° C. for 1 hour and poured into a mixture of 7% hydrochloric acid (200 ml) and ethyl acetate (200 ml). The organic layer was washed with water, dried over magnesium sulfate and evaporated. The residue was distilled under reduced pressure to give a mixture of the product and 1,10-dibromodecane as a colorless oil (27.23 g) (bp.115-120° C./0.5 Torr). The mixture was chromatographed on a silica gel column eluting with n-hexane to give 1-bromo-12-methyltridecane as an oil (15.3 g).

reactant | Isobutyl bromide | 27.4 g | C(C(C)C)Br | C4H9Br
reactant | magnesium | 5.0 g | [Mg] | Mg
reactant | 1,10-dibromodecane | 50.0 g | BrCCCCCCCCCCBr | C10H20Br2
reactant | hydrochloric acid | 200 ml | Cl | ClH
reactant | 1,10-dibromodecane | 27.23 g | BrCCCCCCCCCCBr | C10H20Br2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | dilithium tetrachlorocuprate | [Li+].[Li+].[Cl-].[Cl-].[Cl-].[Cl-].[Cu+2]
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 1-bromo-12-methyltridecane | 15.3 g | BrCCCCCCCCCCCC(C)C | C14H29Br
